US04997943
3.7 g (0.02 mole) of 1-t-butoxycarbonyl-3,4-epoxypyrrolidine (prepared as described in Preparation 8) were dissolved in 15 ml of ethanol. 7.88 g (0.04 mole) of dibenzylamine were added to the solution, and the mixture was heated under reflux for 10 hours. At the end of this time, the solvent was removed by evaporation under reduced pressure, and the residue was subjected to column chromatography through silica gel, eluted with a 12:88 by volume mixture of ethyl acetate and toluene, to give 1.21 g of 1-t-butoxycarbonyl-3-dibenzylamino-4-hydroxypyrrolidine as a pale yellow oil.

reactant | 1-t-butoxycarbonyl-3,4-epoxypyrrolidine | 0.02 mole, 3.7 g | C(C)(C)(C)OC(=O)N1CC2C(C1)O2 | C9H15NO3
reactant | dibenzylamine | 0.04 mole, 7.88 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-t-butoxycarbonyl-3-dibenzylamino-4-hydroxypyrrolidine | 1.21 g | C(C)(C)(C)OC(=O)N1CC(C(C1)O)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H30N2O3
